US05194442
Trans-5-(1,2-dihydro-5-nitro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
7.85 g (56 mmol) of 2-hydroxy-5-nitro-pyridine are added in portions to 1.61 g (56 mmol) of sodium hydride (80% dispersion in mineral oil) in 30 ml of DMPU (1,3-dimethyl-tetrahydro-2(1H)-pyrimidinone) under argon. After evolution of gas has ceased the mixture is stirred for 20 minutes. Then, at room temperature, a solution of 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin in 10 ml of DMPU is added dropwise. The mixture is subsequently heated at 95° C. for 6 hours. The mixture is poured into ice/water, stirring vigorously, and precipitated solid is filtered off with suction. The solid is chromatographed on silica gel (ethyl acetate/cyclohexane 2:1), and the pale yellow oil obtained in this way is crystallized in methyl tert.-butyl ether. Melting point 152°-155° C.

reactant | 2-hydroxy-5-nitro-pyridine | 56 mmol, 7.85 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | sodium hydride | 56 mmol, 1.61 g | [H-].[Na+]
reactant | 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
solvent | DMPU | 30 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | DMPU | 10 ml | CN1CCCN(C1=O)C | C6H12N2O
product | Trans-5-(1,2-dihydro-5-nitro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | [N+](=O)([O-])C=1C=CC(N(C1)[C@H]1[C@@H](CCOC2=C1C=CC=C2)O)=O | C15H14N2O5
